US08106217B2
30.0 g (99.3 mmol) of bis(pentafluoroethyl)phosphinic acid and 20.7 g (99.4 mol) of phosphorus pentachloride are mixed with one another and stirred at room temperature for 30 minutes. Bis(pentafluoroethyl)phosphinyl chloride is isolated from the reaction mixture by fractional distillation. The boiling point is 118-119° C. 23.1 g of a colourless liquid are obtained. The yield is 72.6% of the calculated yield of bis(pentafluoroethyl)phosphinyl chloride.

reactant | bis(pentafluoroethyl)phosphinic acid | 99.3 mmol, 30.0 g | FC(C(F)(F)F)(F)P(O)(=O)C(C(F)(F)F)(F)F | C4HF10O2P
reactant | phosphorus pentachloride | 99.4 mol, 20.7 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | Bis(pentafluoroethyl)phosphinyl chloride | FC(C(F)(F)F)(F)P(=O)(C(C(F)(F)F)(F)F)Cl | C4ClF10OP
